US09126993B2
1-azabicyclo[2.2.2]oct-3-yl[2-(biphenyl-3-yl)propan-2-yl]carbamate
Using general procedure E, 1-azabicyclo[2.2.2]oct-3-yl[2-(3-bromophenyl)propan-2-yl]carbamate (600 mg, 1.63 mmol), phenylboronic acid (398 mg, 3.27 mmol) and palladium (II) acetate gave the title compound as a white solid (379 mg, 64%). 1H NMR (400 MHz, CDCl3) δ 7.61 (s, 1H), 7.56 (d, J=7.4 Hz, 2H), 7.50-7.38 (m, 4H), 7.34 (m, 2H), 5.16 (s, 1H), 4.63 (s, 1H), 3.39-2.09 (m, 6H), 1.72 (s, 6H), 2.02-0.73 (m, 5H) ppm. 13C NMR (100 MHz, CDCl3) δ 154.8, 147.8, 141.6, 129.0, 129.0, 128.6, 127.5, 125.8, 125.0, 124.0, 71.6, 71.3, 55.9, 55.5, 47.6, 46.8, 31.5, 30.2, 30.0, 29.5, 25.6, 24.8, 19.8 ppm. Purity: 99% UPLCMS (210 nm); retention time 0.84 min; (M+1) 365.0. Anal. Calcd. for C23H28N2O20.0.29 (CHCl3): C, 70.02; H, 7.14; N, 7.01. Found: C, 70.02; H, 7.37; N, 6.84.

reactant | 1-azabicyclo[2.2.2]oct-3-yl[2-(3-bromophenyl)propan-2-yl]carbamate | 1.63 mmol, 600 mg | N12CC(C(CC1)CC2)OC(NC(C)(C)C2=CC(=CC=C2)Br)=O | C17H23BrN2O2
reactant | phenylboronic acid | 3.27 mmol, 398 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
catalyst | palladium (II) acetate | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 1-azabicyclo[2.2.2]oct-3-yl[2-(biphenyl-3-yl)propan-2-yl]carbamate | 379 mg, 64% | N12CC(C(CC1)CC2)OC(NC(C)(C)C=2C=C(C=CC2)C2=CC=CC=C2)=O | C23H28N2O2
